US06727264B1
1-(5-CHLOROPENTYL)-1H-INDOLE:
According to the procedure used for the synthesis of 1-(6-chlorohexyl)-1H-indole, 1-H-indole (0.585 g, 5.00 mmol) and 1-bromo-5-chloropentane (0.928 g, 5.00 mmol) gave the desired product (0.890 g, 80%). 1H NMR (CDCl3) δ 7.76-7.51 (m, 1H), 7.44-6.96 (m, 4H), 6.60-6.38 (m, 1H), 4.11 (t, 2H, J=6.8 Hz), 3.47 (t, 2H, J=6.4 Hz), 1.97-1.79 (m, 2H), 1.79-1.61 (m, 2H), 1.58-1.32 (m, 2H).

reactant | 1-(6-chlorohexyl)-1H-indole | ClCCCCCCN1C=CC2=CC=CC=C12 | C14H18ClN
reactant | 1-H-indole | 5.00 mmol, 0.585 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-bromo-5-chloropentane | 5.00 mmol, 0.928 g | BrCCCCCCl | C5H10BrCl
product | 1-(5-CHLOROPENTYL)-1H-INDOLE | 0.890 g, 80% | ClCCCCCN1C=CC2=CC=CC=C12 | C13H16ClN
